US09210927B2
Preparation of (E)-Methyl 2-((2-chloro-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzyl)amino)-2-oxoacetate (CC41)
To a stirred solution of (E)-(2-chloro-4-(3-(3,4,5-trichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)phenyl)methanamine (0.2 g, 0.5 mmol) in CH2Cl2 (5 mL) at 0° C. were added TEA (0.141 mL, 1 mmol) and methyl 2-chloro-2-oxoacetate (0.09 g, 0.75 mmol), and the reaction mixture was stirred for 1 h at 0° C. The reaction mixture was diluted with CH2Cl2. The organic layer was washed with H2O and brine, dried over Na2SO4, and concentrated under reduced pressure. Purification by column chromatography (SiO2, 100-200 mesh; 20% EtOAc in hexane) afforded the title compound as a solid (0.12 g, 50%): 1H NMR (400 MHz, CDCl3) δ 7.48 (m, 1H). 7.43 (m, 3H), 7.38 (m, 1H), 7.23 (s, 1H), 6.55 (d, J=16.0 Hz, 1H), 6.36 (dd, J=16.0, 8.0 Hz, 1H), 4.60 (d, J=4.4 Hz, 2H), 4.18 (m, 1H), 3.85 (s, 3H); ESIMS m/z 512.22 ([M−H]−); IR (thin film) 1740, 1701, 1114, 808 cm−1.

reactant | (E)-(2-chloro-4-(3-(3,4,5-trichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)phenyl)methanamine | 0.5 mmol, 0.2 g | ClC1=C(C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)CN | C17H12Cl4F3N
reactant | methyl 2-chloro-2-oxoacetate | 0.75 mmol, 0.09 g | ClC(C(=O)OC)=O | C3H3ClO3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-Methyl 2-((2-chloro-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzyl)amino)-2-oxoacetate | 0.12 g, 50% | ClC1=C(CNC(C(=O)OC)=O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C20H14Cl4F3NO3
